US08912180B2
To a mixture of methyl 2-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}cyclopentane carboxylate (50 mg) and tetrahydrofuran (1 mL) were added a 1.06 M solution of methyllithium in diethyl ether (0.33 mL) at 0° C., followed by stirring at the same temperature for 4 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate) to obtain 2-(2-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}cyclopentyl)propan-2-ol (11.1 mg).

reactant | methyl 2-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}cyclopentane carboxylate | 50 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)C1C(CCC1)C(=O)OC)C=CC=C2)F | C29H37F2N7O3
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | methyllithium | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 0.33 mL | C(C)OCC | C4H10O
product | 2-(2-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}cyclopentyl)propan-2-ol | 11.1 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)C1C(CCC1)C(C)(C)O)C=CC=C2)F | C30H41F2N7O2
